US07375134B2
Preparation of (2S)-2-[(1S)-1-(3′-chloro-4′-fluorobiphenyl-4-yl)-2,2,2-trifluoroethylamino]-pentanoic acid (1-cyano-cyclopropyl)-amide
The title compound was prepared in similar manner to that described for N1-(1-cyanocyclopropyl)-N2-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide via Suzuki cross-coupling between 3-chloro-4-fluorophenylboronic acid and N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide in the presence of [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), dichloromethane complex.

reactant | N1-(1-cyanocyclopropyl)-N2-{(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}-L-norvalinamide | C(#N)C1(CC1)NC([C@@H](N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)CCC)=O | C24H26F3N3O3S
reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@@H](CCC)C(=O)NC1(CC1)C#N | C17H19BrF3N3O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S)-2-[(1S)-1-(3′-chloro-4′-fluorobiphenyl-4-yl)-2,2,2-trifluoroethylamino]-pentanoic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CCC)N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)=O | C23H22ClF4N3O
